US04774248
30 g (0.1165 mol) of 2-(4-chlorophenyl)propane-1,3-diamine dihydrochloride are dissolved in the minimum quantity of water, NaOH is added until the pH is 11, the mixture is extracted with 4×100 ml of chloroform, the chloroform phase is washed with 50 ml of water, dried over MgSO4 and filtered, and the filtrate is evaporated to dryness to give 20.8 g (0.1127 mol) of 2-(4-chlorophenyl)propane-1,3-diamine.

reactant | 2-(4-chlorophenyl)propane-1,3-diamine dihydrochloride | 0.1165 mol, 30 g | Cl.Cl.ClC1=CC=C(C=C1)C(CN)CN
solvent | water | O | H2O
solvent | NaOH | [OH-].[Na+]
product | 2-(4-chlorophenyl)propane-1,3-diamine | 0.1127 mol, 20.8 g, yield: 38% | ClC1=CC=C(C=C1)C(CN)CN | C9H13ClN2
